US05281593
ii) 3-[2(E)-(7-Chloroquinolin-2-yl)ethenyl]benzyl alcohol
Solid sodium borohydride (2.5 g) was added in portions to a stirred suspension of crude 3-[2(E)-(7-chloroquinolin-2-yl)ethenyl]benzaldehyde (5.8 g) in methanol (200 ml). The mixture was filtered and the filtrate was concentrated to ca 70 ml and diluted with hot water to give crystals, m.p. 141° C.

reactant | sodium borohydride | 2.5 g | [BH4-].[Na+]
reactant | 3-[2(E)-(7-chloroquinolin-2-yl)ethenyl]benzaldehyde | 5.8 g | ClC1=CC=C2C=CC(=NC2=C1)/C=C/C=1C=C(C=O)C=CC1 | C18H12ClNO
solvent | methanol | 200 ml | CO | CH4O
product | 3-[2(E)-(7-Chloroquinolin-2-yl)ethenyl]benzyl alcohol | ClC1=CC=C2C=CC(=NC2=C1)/C=C/C=1C=C(CO)C=CC1 | C18H14ClNO
